US06670364B2
A mixture of 5-amino-3-methyl-isoxazole (5.26 g) and diethyl ethoxymethylenemalonate (10.9 ml) was heated at 120° C. for 3 hrs. The mixture was cooled to room temperature. The precipitated solid was collected, washed with n-hexane and dried under high vacuum. A portion of this solid (11.37 g) was dissolved in phosphoryl chloride (55 ml), heated at reflux for 11 hrs, and then cooled to room temperature. The mixture was concentrated under reduced pressure and the residue was purified with the column chromatography (ethyl acetate:n-hexane=1:9) to give ethyl 3-methylisoxazolo[5,4-b]pyridine-5-carboxylate as a white solid. Zinc powder (2.75 g) was added to a solution of a portion of the solid (2.43 g) in acetic acid (24 ml), the mixture was stirred at 80° C. for 1.5 hrs, and then filtered. The filtrate was concentrated under reduced pressure. The residue was dissolved in a mixture of 5N NaOH (10 ml) and ethanol (10 ml), the solution was refluxed for 1.5 hrs, cooled to room temperature, and acidified with concentrated HCl. The precipitated solid was collected by the filtration, washed with water, and dried under high vacuum.

reactant | 5-amino-3-methyl-isoxazole | 5.26 g | NC1=CC(=NO1)C | C4H6N2O
reactant | diethyl ethoxymethylenemalonate | 10.9 ml | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
product | ethyl 3-methylisoxazolo[5,4-b]pyridine-5-carboxylate | CC1=NOC2=NC=C(C=C21)C(=O)OCC | C10H10N2O3
